US04355164
A mixture of 4 g (0.015 mol) of 3-carbomethoxy-4-hydroxy-7-methylpyrido[3',2':4,5]thieno[3,2-C]pyridazine in 60 ml of 3% NaOH solution was stirred at room temperature for 2 hours. It was then diluted with water, treated with charcoal and filtered. It was acidified with acetic acid and filtered. Crystallization of the crude product from 3% NaOH/HOAC gave 2 g (53%) of 3-carboxy-4-hydroxy-7-methylpyrido[3',2':4,5]thieno[3,2-C]pyridazine, m.p.>300° C.

reactant | 3-carbomethoxy-4-hydroxy-7-methylpyrido[3',2':4,5]thieno[3,2-C]pyridazine | 0.015 mol, 4 g | C(=O)(OC)C1=C(C2=C(N=N1)C1=C(S2)N=C(C=C1)C)O | C12H9N3O3S
reactant | charcoal | C | CH4
solvent | NaOH | 60 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3-carboxy-4-hydroxy-7-methylpyrido[3',2':4,5]thieno[3,2-C]pyridazine | 2 g, 53% | C(=O)(O)C1=C(C2=C(N=N1)C1=C(S2)N=C(C=C1)C)O | C11H7N3O3S
